US04994571
N-(2-Chloroimidazo[1,2-a]pyridine-3-ylsulfonyl)-N'-(4,6-dimethoxy-2-pyrimidinyl)urea (Compound No. 1)
To 200 ml of dichloromethane are added 10.0 g (0.043 mole) of 2-chloroimidazo[1,2-a]pyridine-3sulfonamide and 8.85 g (0.0866 mole) of triethylamine, followed by adding dropwise 6.78 g (0.0433 mole) of phenyl chloroformate with stirring at 20° to 25° C. The mixture is further stirred at the same temperature for 30 minutes, and 4.20 g (0.0433 mole) of 2-amino-4,6-dimethoxyacid and 6.72 g (0.0433 mole) of 2-amino-4,6-dimethoxypyrimidine are added to the mixture in that order. The mixture is refluxed for 5 hours. After completion of the reaction, the dichloromethane is removed under reduced pressure and to the residue is added 50 ml of acetonitrile. The resulting crystals are collected by filtration, washed with three 10 ml portions of acetonitrile and water with water. The crystals were dried in vacuo over P2O5 to give 15.62 g (yield 87.9%) of the title compound.

reactant | 2-chloroimidazo[1,2-a]pyridine-3sulfonamide | 0.043 mole, 10.0 g | ClC=1N=C2N(C=CC=C2)C1S(=O)(=O)N | C7H6ClN3O2S
reactant | triethylamine | 0.0866 mole, 8.85 g | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.0433 mole, 6.78 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 2-amino-4,6-dimethoxypyrimidine | 0.0433 mole, 6.72 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-(2-Chloroimidazo[1,2-a]pyridine-3-ylsulfonyl)-N'-(4,6-dimethoxy-2-pyrimidinyl)urea | 15.62 g, yield 87.9% | ClC=1N=C2N(C=CC=C2)C1S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C14H13ClN6O5S
